US07935699B2
{3-[2(R)-(3-Chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionylamino]-pyrazol-1-yl}-acetic acid tert-butyl ester (95 mg, 0.19 mmol) was dissolved in 20% trifluoroacetic acid/methylene chloride (2 mL) and allowed to stir at 25° C. for 4 h, after which time the solvent was removed by blowing nitrogen into the reaction vessel. The crude material was purified by ISCO flash column chromatography (Teledyne Isco RediSep Flash Column 4 g; 0% ethyl acetate/hexanes to 75% ethyl acetate/hexanes), afforded {3-[2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionylamino]-pyrazol-1-yl}-acetic acid (67 mg, 79%) as a white powder: ESI-LRMS m/e calcd for C20H24ClN3O5S [M+] 453.1, found 454.1 [M+H+]; 1H NMR (400 MHz, CDCl3) δ ppm 1.03-1.24 (m, 2H, CH2), 1.37-1.97 (m, 8H, 4×CH2), 2.12-2.26 (m, 1H, CH), 3.26 (s, 3H, SO2CH3), 3.62 (t, J=7.5 Hz, 1H, CH), 4.72 (AB, Jgem=17.4 Hz, 2H, NCH2), 6.82 (d, J=1.2, 1H, Ar), 7.39 (d, J=1.2, 1H, Ar), 7.43 (d, Jo=8.2 Hz, 1H, Ar), 7.58 (s, 1H, Ar), 8.01 (d, Jo=8.2 Hz, 1H, Ar), 9.82 (s, 1H, NH).

reactant | {3-[2(R)-(3-Chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionylamino]-pyrazol-1-yl}-acetic acid tert-butyl ester | 0.19 mmol, 95 mg | C(C)(C)(C)OC(CN1N=C(C=C1)NC([C@H](CC1CCCC1)C1=CC(=C(C=C1)S(=O)(=O)C)Cl)=O)=O | C24H32ClN3O5S
solvent | trifluoroacetic acid methylene chloride | 2 mL | FC(C(=O)O)(F)F.C(Cl)Cl
product | {3-[2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionylamino]-pyrazol-1-yl}-acetic acid | 67 mg, 79% | ClC=1C=C(C=CC1S(=O)(=O)C)[C@H](C(=O)NC1=NN(C=C1)CC(=O)O)CC1CCCC1 | C20H24ClN3O5S
